US06291455B1
Concentrated aqueous ammonia (8 ml) was added to a solution of 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)quinazoline (2.38 g, 6 mmol) in a mixture of trichloromethane (24 ml) and methanol (24 ml). The mixture was heated at reflux for 8 hours and the volatiles removed by evaporation. The residue was triturated with water, the resulting solid was collected by filtration and recrystallised from methylene chloride/ethanol. The product was redissolved in a mixture of methylene chloride/ethanol and a saturated solution of hydrogen chloride in ethanol was added. The solvent was partially removed by evaporation and the mixture cooled. The resulting precipitate was collected by filtration washed with ether and dried under vacuum to give 4-(3-hydroxy-4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride (1.68 g, 80%).

reactant | ammonia | 8 ml | N | H3N
reactant | 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)quinazoline | 6 mmol, 2.38 g | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOC)C=CC1C | C21H23N3O5
reactant | trichloromethane | 24 ml | ClC(Cl)Cl | CHCl3
solvent | methanol | 24 ml | CO | CH4O
product | 4-(3-hydroxy-4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride | 1.68 g, 80% | Cl.OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOC)C=CC1C | InChI=1S/C19H21N3O4.ClH/c1-12-4-5-13(8-16(12)23)22-19-14-9-17(25-3)18(26-7-6-24-2)10-15(14)20-11-21-19;/h4-5,8-11,23H,6-7H2,1-3H3,(H,20,21,22);1H
